US07582769B2
To (1,4-Dioxa-spiro[4.5]dec-8-yl)-methanol (10 g) in tetrahydrofuran (300 mL) in an ice bath was added sodium hydride (3.6 g of 60% in mineral oil) and the mixture stirred for 30 min. Methyl iodide 7.8 mL in THF (20 mL) was added dropwise and the reaction was allowed to warm slowly to room temperature overnight. Water (20 mL) was added and the reaction mixture partially concentrated, then partitioned between water (100 mL) and diethyl ether (300 mL). The organic phase was isolated, dried and concentrated in vacuo. The crude was then taken up in tetrahydrofuran (250 mL) and 40 mL of 3N aqueous HCl was added. The reaction was stirred for 2 h at room temperature, partially concentrated and then the crude product was extracted with diethyl ether, dried, concentrated and purified by flash chromatography (eluant 4 hexane: 1 ethyl acetate) to give 4-methoxymethyl-cyclohexanone 4.9 g.

reactant | (1,4-Dioxa-spiro[4.5]dec-8-yl)-methanol | 10 g | O1CCOC12CCC(CC2)CO | C9H16O3
reactant | sodium hydride | 3.6 g | [H-].[Na+]
reactant | Methyl iodide | 7.8 mL | CI | CH3I
reactant | Water | 20 mL | O | H2O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-methoxymethyl-cyclohexanone | 4.9 g | COCC1CCC(CC1)=O | C8H14O2
